US04170654
To a magnetically stirred solution of 9 grams (66 mm) of 2-cyano-4-hydroxymethylpyridine (Swan, et al. J. Chem. Soc., 3440 (1963)] contained in 300 mls of benzene is added 15.1 grams (72 mm) of phosphorous pentachloride. After stirring for 1/2 hour, ice and water are added followed by sodium bicarbonate. The organic layer is washed with water and evaporated. The residual oil is crystallized from petroleum ether., to yield 8.5 grams (83%) of 2-cyano-4-pyridyl chloride, m.p. - 55°-56°.

reactant | 2-cyano-4-hydroxymethylpyridine | 9 grams | C(#N)C1=NC=CC(=C1)CO | C7H6N2O
reactant | phosphorous pentachloride | 15.1 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 300 mls | C1=CC=CC=C1 | C6H6
product | 2-cyano-4-pyridyl chloride | 8.5 grams, 83% | C(#N)C1=NC=CC(=C1)Cl | C6H3ClN2
